US07713994B2
1-[2-Methyl-4-(2-morpholin-4-yl-ethoxy)-phenyl]-ethanone
A mixture of 1-(4-hydroxy-2-methyl-phenyl)-ethanone (15.0 g, 0.10 mole), sodium iodide (15.0 g, 0.10 mole), 4-(2-chloro-ethyl)-morpholine; hydrochloride (18.6 g, 0.10 mole), anhydrous powdered potassium carbonate (67.0 g, 0.50 mole) and 2-butanone (500 mL) is stirred and heated at a gentle reflux overnight. The mixture is cooled to room temperature, filtered, the solids washed with acetone. The combined filtrates were evaporated in-vacuo, the residue treated with water and extracted with ether. The ether layer is washed with 1N sodium hydroxide, water, brine, dried over anhydrous sodium sulfate, filtered and evaporated to give an oil, 19.2 g. (73%) used as is for the next step.

reactant | 1-(4-hydroxy-2-methyl-phenyl)-ethanone | 0.10 mole, 15.0 g | OC1=CC(=C(C=C1)C(C)=O)C | C9H10O2
reactant | sodium iodide | 0.10 mole, 15.0 g | [I-].[Na+]
reactant | 4-(2-chloro-ethyl)-morpholine | ClCCN1CCOCC1 | C6H12ClNO
reactant | hydrochloride | 0.10 mole, 18.6 g | Cl | ClH
reactant | potassium carbonate | 0.50 mole, 67.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 500 mL | CC(CC)=O | C4H8O
product | 1-[2-Methyl-4-(2-morpholin-4-yl-ethoxy)-phenyl]-ethanone | CC1=C(C=CC(=C1)OCCN1CCOCC1)C(C)=O | C15H21NO3
